US03979381
2,3,3a,4,6,7-Hexahydro-3-(2-methylphenyl)-7-[(2-methylphenyl)methylene]-2-propylthiopyrano[4,3-c]pyrazole
A mixture of 6.7g of tetrahydro-3,5-bis-[(2-methylphenyl)methylene]-4H-thiopyran-4-one and 1.6g of n-propyl hydrazine in 250ml of methanol is heated at reflux temperature for 4 hours and allowed to cool to room temperature over a 16hour period. The precipitate that forms is collected by filtration and chromatographed on a neutral alumina column (Activity I). The fractions eluted with 10-20 % ether/hexane are combined and recrystallized from methanol/water to give 1.6g of the title compound, melting point 110°-112.5°C.

reactant | tetrahydro-3,5-bis-[(2-methylphenyl)methylene]-4H-thiopyran-4-one | 6.7g | CC1=C(C=CC=C1)C=C1CSCC(C1=O)=CC1=C(C=CC=C1)C | C21H20OS
reactant | n-propyl hydrazine | 1.6g | C(CC)NN | C3H10N2
solvent | methanol | 250ml | CO | CH4O
product | 2,3,3a,4,6,7-Hexahydro-3-(2-methylphenyl)-7-[(2-methylphenyl)methylene]-2-propylthiopyrano[4,3-c]pyrazole | 1.6g | CC1=C(C=CC=C1)C1C2C(=NN1CCC)C(CSC2)=CC2=C(C=CC=C2)C | C24H28N2S
